US06469043B1
5-Bromo-3-chloro-7-nitro-1H-indole
To a solution of 12.00 g (49.8 mmol) of 5-bromo-7-nitro-1H-indole in 140 ml of tetrahydrofuran were added 1.4 ml of dimethylformamide and 6.98 g (52.3 mmol) of N-chlorosuccinimide followed by stirring at room temperature overnight. A 10% aqueous solution of sodium thiosulfate was added thereto followed by extracting with ethyl acetate. The organic layer was washed with water and brine successively, dried over magnesium sulfate and concentrated to dryness to give 14.84 g of the title compound.

reactant | 5-bromo-7-nitro-1H-indole | 49.8 mmol, 12.00 g | BrC=1C=C2C=CNC2=C(C1)[N+](=O)[O-] | C8H5BrN2O2
reactant | dimethylformamide | 1.4 ml | CN(C=O)C | C3H7NO
reactant | N-chlorosuccinimide | 52.3 mmol, 6.98 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
product | 5-Bromo-3-chloro-7-nitro-1H-indole | 14.84 g | BrC=1C=C2C(=CNC2=C(C1)[N+](=O)[O-])Cl | C8H4BrClN2O2
